US04513002
1.0 g of 1,4,10,11-tetrahydro-5H-dibenzo[a,d]cycloheptene in 20 ml of dry tetrahydrofuran are treated dropwise at between -70° and -60° with 9.0 ml of an about 0.85M solution of n-butyl lithium in hexane. The mixture is stirred at -70° for 60 minutes and at -30° for 30 minutes, a solution of 2.1 g of 2-chloroethylpyrrolidine in 5 ml of dry tetrahydrofuran at -30° is added dropwise thereto and subsequently the mixture is stirred at -30° for an additional 30 minutes, at 0° to 5° for 3 hours and at room temperature for 30 minutes. After evaporation of the mixture, the residue remaining is dissolved in toluene and washed ion-free with water. The organic phase is filtered over aluminum oxide (activity grade II, neutral) using toluene for the elution. Crude 1-[2-(4,5,10,11-tetrahydro-1H-dibenzo[a,d]cyclohepten-5-yl)ethyl]pyrrolidine is obtained.

reactant | 1,4,10,11-tetrahydro-5H-dibenzo[a,d]cycloheptene | 1.0 g | C1C=CCC=2CC3=C(CCC21)C=CC=C3 | C15H16
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-chloroethylpyrrolidine | 2.1 g | ClCCN1CCCC1 | C6H12ClN
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[2-(4,5,10,11-tetrahydro-1H-dibenzo[a,d]cyclohepten-5-yl)ethyl]pyrrolidine | C1C=CCC=2C(C3=C(CCC21)C=CC=C3)CCN3CCCC3 | C21H27N
